US06147226
Cyclopentyl 2-thienyl ketone synthesis
A solution of 8.8 g (105 mmol, 1.2 equivs.) of thiophene and 10.0 g (88 mmol) of cyclopentanecarboxylic acid in 20 g of polyphosphoric acid was stirred at 75° C. for 2 hours. The reaction mixture was diluted with water and extracted with o-dichlorobenzene to afford 99% pure product (GC, area % analysis). The mixture was azeotropically dried by stripping a small portion of the solvent. The crude cyclopentyl 2-thienyl ketone solution was then used without purification, for the bromination step of Example 2.

reactant | thiophene | 105 mmol, 8.8 g | S1C=CC=C1 | C4H4S
reactant | cyclopentanecarboxylic acid | 88 mmol, 10.0 g | C1(CCCC1)C(=O)O | C6H10O2
solvent | water | O | H2O
product | Cyclopentyl 2-thienyl ketone | 99% | S1C(=CC=C1)C(=O)C1CCCC1 | C10H12OS
